Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back, leg pain
 
Major Surgical or Invasive Procedure:
___ Microdiscectomy

 
History of Present Illness:
___ is a ___ girl,
healthy.  She is a student at ___ in ___. 
She reports a 10-month history of low back pain and bilateral 
leg
pain.  She is an active girl and enjoys lifting weights and says
over the last 10 months this back pain has peaked, but is now
getting better.  She currently has no pain for over the last
three days.  She says her back pain has improved as well as her
leg pain.  She was initially evaluated by her primary care
physician and referred for physical therapy for IT band
stretching and strengthening exercises.  At the same time, labs
were drawn to further investigate her leg pain, which were all
negative.  She continued to have persistent leg pain symptoms 
and
eventually underwent MRI on ___, for further
evaluation.  Afterwards, the report was concerning and she
reports here to the ER at ___ for further
evaluation due to the MRI findings.  She denies any bowel or
bladder complaints.  She denies any bowel incontinence, any
urinary incontinence or retention.  She says she knows when she
needs to use the restroom and knows when she does not need to 
use
the restroom.  She denies any saddle numbness.  No numbness in
her legs and denies any weakness.  She has been doing well with
physical therapy and currently says for the last four days, she
says her pain is very well controlled.  Currently, her pain is
___ and improving and she denies any shooting pain down her
legs and she says her pain in her legs is much improved.  Her
back soreness is also improving.  Prior to four days ago when 
the
pain was continued, it mainly located in her low back pain area
and it was relieved by Motrin.

Past medical history, review of systems, family and social
history were reviewed with ___ today as well as her mother
who is a ___ and accompanied her today.

PAST MEDICAL HISTORY:  Notable for allergic rhinitis, otherwise
healthy.

ALLERGIES:  No known drug allergies.

CURRENT MEDICATIONS:  Only include Motrin.

PHYSICAL EXAMINATION:
GENERAL:  Well-appearing white girl in no acute distress. 
Current pain level ___.
HEENT:  Sclerae were anicteric.
RESPIRATORY:  She was breathing at a regular rate.
MUSCULOSKELETAL:  Cervical spine range of motion is full and
painless.  There is no evidence of rashes or ulcerations.  Her
mood is appropriate.  Her constitution is appropriate.  She 
walks
with a nonantalgic gait.  She can walk easily on her balls of 
her
feet as well as her heels.  She has no pain when walking.  Upper
extremity neuro exam shows ___ strength in the deltoid, biceps,
wrist extensors, triceps, wrist flexors and dorsal interossei
bilaterally.  She has negative ___.  Examination of her
lower extremities shows ___ strength in the iliopsoas, quads,
tibialis anterior, ___ and ___.  She has no clonus and
Babinski is downgoing.  Her sensation is intact in C5-T1 as well
as L1-S1 distribution.  She has no numbness.

MRI was personally reviewed, notable for a central herniated
nucleus pulposus at L3-L4.  The report was also read and was 
read
by Dr. ___ who says L3-L4 has large central disk
extrusion with resultant severe spinal canal stenosis and
compression of the cauda equina nerve roots at this level.

 
Brief Hospital Course:
Patient was taken to the Operating Room for the above procedure. 
 Refer to 
the dictated operative note for further details.  The surgery 
proceeded without 
complication and the patient was transferred to the PACU in a 
stable condition.  Because of the late timing of the procedure, 
she was admitted overnight for observation.

TEDs/pnemoboots were used for postoperative DVT prophylaxis.  
Intravenous antibiotics were continued while inpatient per 
standard protocol. Initial postop pain was controlled with a 
PCA.  Diet was advanced as tolerated.  The patient was 
transitioned to oral pain medication when tolerating PO diet.  

On the day of discharge the patient was afebrile with 
stable vital signs, comfortable on oral pain control and 
tolerating a regular diet, and ambulating independently.

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. Diazepam 5 mg PO Q6H:PRN pain, spasm 
RX *diazepam 5 mg 1 tab by mouth q6-8h Disp #*30 Tablet 
Refills:*0
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg ___ capsule(s) by mouth q4-6h Disp #*60 
Tablet Refills:*0
5. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth q4-6h 
Disp #*50 Tablet Refills:*0
6. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*40 Tablet Refills:*0
7. Loratadine 10 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Herniated L3-4 disc

 
Discharge Condition:
Stable

 
Discharge Instructions:
You have undergone the following operation: Minimally Invasive 
Microdiscectomy

Immediately after the operation:

•                Activity: You should not lift anything greater 
than 10 lbs for 2 weeks. You will be more comfortable if you do 
not sit or stand more than ~45 minutes without moving around.

•                Rehabilitation/ Physical Therapy:

___                ___ times a day you should go for a walk 
for ___ minutes as part of your recovery.  You can walk as 
much as you can tolerate.

___                Limit any kind of lifting.

•                Diet: Eat a normal healthy diet. You may have 
some constipation after surgery.

•                Brace: You do not need a brace.

•                Wound Care: Remove the dressing in 2 days.  If 
the incision is draining cover it with a new sterile dressing.  
If it is dry then you can leave the incision open to the air.  
Once the incision is completely dry (usually ___ days after the 
operation) you may take a shower. Do not soak the incision in a 
bath or pool.  If the incision starts draining at anytime after 
surgery, do not get the incision wet. Cover it with a sterile 
dressing.  Call the office.

•                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your pain.  Please allow 72 hours for refill of 
narcotic prescriptions, so please plan ahead.  You can either 
have them mailed to your home or pick them up at the clinic 
located on ___ 2.  We are not allowed to call in narcotic 
prescriptions (oxycontin, oxycodone, percocet) to the pharmacy.  
In addition, we are only allowed to write for pain medications 
for 90 days from the date of surgery.

•                Follow up:            

___                Please Call the office and make an 
appointment for 2 weeks after the day of your operation if this 
has not been done already.

___                At the 2-week visit we will check your 
incision, take baseline X-rays and answer any questions. We may 
at that time start physical therapy.

___                We will then see you at 6 weeks from the 
day of the operation and at that time release you to full 
activity.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound

 
Followup Instructions:
___